US07132425B2
A mixture of 2,3-dihydrofuran (1.40 g, 19.97 mmol) and benzene sulfinic acid (3.12 g, 21.97 mmol) in methylene chloride (80 mL) was stirred at 25° C. for 2 h. The reaction was then transferred to a separatory funnel and washed with a saturated aqueous sodium carbonate solution (15 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The resulting solid was then recrystallized using diethyl ether/petroleum ether to afford 2-benzenesulfonyl-tetrahydro-furan as a white solid: mp 55.9–56.8° C.

reactant | 2,3-dihydrofuran | 19.97 mmol, 1.40 g | O1CCC=C1 | C4H6O
reactant | benzene sulfinic acid | 21.97 mmol, 3.12 g | C1(=CC=CC=C1)S(=O)O | C6H6O2S
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
product | 2-benzenesulfonyl-tetrahydro-furan | C1(=CC=CC=C1)S(=O)(=O)C1OCCC1 | C10H12O3S
